US08389536B2
Step 1: rac-1-(5-Phenylethynyl-pyridin-2-yl)-ethanol
The title compound, brown solid, MS: m/e=224.2 (M+H+), can be prepared in accordance with the general method of example 31, step 1 from rac-1-(5-bromopyridin-2-yl)ethanol and phenylacetylene.

reactant | rac-1-(5-bromopyridin-2-yl)ethanol | BrC=1C=CC(=NC1)C(C)O | C7H8BrNO
reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
product | rac-1-(5-Phenylethynyl-pyridin-2-yl)-ethanol | C1(=CC=CC=C1)C#CC=1C=CC(=NC1)C(C)O | C15H13NO
